US05189205
Alanine benzyl ester isocyanate:
Carbon dioxide was added subsurface to a dichloromethane (20 mL) solution containing alanine benzyl ester hydrochloride salt (0.003 mol, 0.65 g) and triethylamine (0.013 mol, 1.3 g) at -10° C. (ice and salt bath) for 30 min at a pressure of psig. The reaction mixture was transferred via cannula all at once under carbon dioxide to the precooled solution of phosphorus oxychloride (0.003 mol, 0.5 g) in 20 mL dichloromethane. After stirring for 20 min at -10° C. diethylether (40 mL) was added to the reaction mixture. A white ppt formed and was filtered off. The filtrate was concentrated in vacuo and the residue was extracted with 3×20 mL diethylether. The ether layers were concentrated and the residue was distilled under vacuum (ca. 0.1-0.3 torr) collecting product, alanine benzyl ester isocyanate, at 95°-96° C. (0.19 g, 30.9%) of 99% purity as judged by GC. IR (neat) 2241, 1744 cm-1. 1H NMR (CDCl3) δ 7.36 (s, 5H), 5.22 (s, 2H), 4.10 (q, 1H, J=14.3), 1.49 (d, 3H, J=7.1) ppm.

reactant | Carbon dioxide | C(=O)=O | CO2
reactant | alanine benzyl ester hydrochloride salt | 0.003 mol, 0.65 g | Cl.C(C1=CC=CC=C1)OC([C@@H](N)C)=O
reactant | triethylamine | 0.013 mol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.003 mol, 0.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | diethylether | 40 mL | C(C)OCC | C4H10O
product | Alanine benzyl ester isocyanate | [N-]=C=O.C(C1=CC=CC=C1)OC([C@@H](N)C)=O | InChI=1S/C10H13NO2.CNO/c1-8(11)10(12)13-7-9-5-3-2-4-6-9;2-1-3/h2-6,8H,7,11H2,1H3;/q;-1/t8-;/m0./s1
